US09062070B2
A solution of 3-bromo-6-fluoro-2-methoxybenzamide (14 g, 61 mmol) in 100 mL of DMF was added 2,4,6-trichloro-[1,3,5]triazine (12.3 g, 67.0 mmol) portionwise at 0° C. and stirred for 2 hours before poured to ice/water. The white solid was collected by filtration and was washed with water, dissolved in DCM, dried over anhydrous Na2SO4 and concentrated to afford 3-bromo-6-fluoro-2-methoxybenzonitrile. 1H-NMR (400 MHz, CDCl3) δ ppm 7.71˜7.74 (m, 1H), 6.84˜6.88 (m, 1H), 4.09 (s, 3H);

reactant | 3-bromo-6-fluoro-2-methoxybenzamide | 61 mmol, 14 g | BrC=1C(=C(C(=O)N)C(=CC1)F)OC | C8H7BrFNO2
reactant | 2,4,6-trichloro-[1,3,5]triazine | 67.0 mmol, 12.3 g | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-bromo-6-fluoro-2-methoxybenzonitrile | BrC=1C(=C(C#N)C(=CC1)F)OC | C8H5BrFNO
